US07417169B2
A mixture of ethyl(4-bromo-2-ethoxyphenoxy)acetate (2.26 g), bis(pinacolato)diboron (2.08 g), [bis(diphenylphosphino)ferrocene]dichloropalladium (0.164 g), bis(diphenylphosphino)ferrocene (0.124 g) and potassium acetate (2.195 g) in 1,4-dioxane (10 mL) was stirred at 100° C. for 24 hrs. The reaction mixture was diluted with diethyl ether, and the insoluble materials were removed by filtration. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=10/1-5/1) to afford ethyl[2-ethoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate (2.28 g).

reactant | ethyl(4-bromo-2-ethoxyphenoxy)acetate | 2.26 g | C(C)OC(COC1=C(C=C(C=C1)Br)OCC)=O | C12H15BrO4
reactant | bis(pinacolato)diboron | 2.08 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.195 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | bis(diphenylphosphino)ferrocene | 0.124 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | ethyl[2-ethoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]acetate | 2.28 g | C(C)OC(COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OCC)=O | C18H27BO6
